US08222416B2
3-Iodo-5-trifluoromethyl-pyridin-2-ylamine (52.5 g, 180 mmol) was dissolved in a mixture of triethylamine (76 mL) and tetrahydrofuran (300 mL) and the solution was degassed and purged with nitrogen. Trimethylsilyl acetylene (38 mL, 270 mmol), copper(I) iodide (0.7 g, 3.6 mmol) and bis(triphenylphosphino) palladium (II) chloride (2.53 g, 3.6 mmol) were added. The mixture was degassed and purged with nitrogen one more time. The mixture was stirred at ambient temperature for 16 h and a solution containing a white precipitate resulted. The precipitate was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 15%-35% ethyl acetate in hexanes) to afford 5-trifluoromethyl-3-trimethylsilanylethynyl-pyridin-2-ylamine (43.8 g, 92%) as a yellow solid: LC/MS m/e calcd for C11H13F3N2Si [M+H]+ 259.32, observed 258.9.

reactant | 3-Iodo-5-trifluoromethyl-pyridin-2-ylamine | 180 mmol, 52.5 g | IC=1C(=NC=C(C1)C(F)(F)F)N | C6H4F3IN2
reactant | Trimethylsilyl acetylene | 270 mmol, 38 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 76 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 3.6 mmol, 0.7 g | [Cu]I
catalyst | bis(triphenylphosphino) palladium (II) chloride | 3.6 mmol, 2.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 5-trifluoromethyl-3-trimethylsilanylethynyl-pyridin-2-ylamine | 43.8 g, 92% | FC(C=1C=C(C(=NC1)N)C#C[Si](C)(C)C)(F)F | C11H13F3N2Si
